* C:\users\samgriffen\My Documents\Projects\GBA_lipo\sims\buck.asc
M1 VBAT VUSB Vin Vin IRF7233
D1 VUSB Vin 1N5817
V1 VUSB 0 PULSE(0 5 10m 1n 1n 10m 20m)
V2 VBAT 0 PULSE(0 4 1m 1n 1n 4m 8m)
R1 VUSB 0 1Meg
.model D D
.lib C:\users\samgriffen\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\samgriffen\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 0 100m 0 startup
.backanno
.end
